US07071334B2
Preparation of 5-methoxy-6-(2-chloro-6-fluorophenyl)-7-isopropylamino-[1,2,4]-triazolo[1,5-α]pyrimidine
To a solution of 65 mmol 5-chloro-6-(2-chloro-6-fluorophenyl)-7-(4-methylpiperidin-1-yl)-[1,2,4]-triazolo[1,5-α]pyrimidine [cf. EP-A 550 113] in dry methanol 71.5 mmol of a 30% solution of sodium methanolate were added at 20 to 25° C. After having stirred this mixture for about 16 hours at this temperature methanol ws evaporated nad the residue was dissolved with dichloromethane. The organic phase was separated, washed with water, dried and filtered. Distillative removal of the solvent from the filtrate and chromatography over silica gel gave 4.2 g of the title compound of mp. 182° C.

reactant | 5-chloro-6-(2-chloro-6-fluorophenyl)-7-(4-methylpiperidin-1-yl)-[1,2,4]-triazolo[1,5-α]pyrimidine | 65 mmol | ClC1=NC=2N(C(=C1C1=C(C=CC=C1F)Cl)N1CCC(CC1)C)N=CN2 | C17H16Cl2FN5
reactant | sodium methanolate | C[O-].[Na+]
reactant | methanol | CO | CH4O
reactant | methanol | 71.5 mmol | CO | CH4O
product | 5-methoxy-6-(2-chloro-6-fluorophenyl)-7-isopropylamino-[1,2,4]-triazolo[1,5-α]pyrimidine | 4.2 g | COC1=NC=2N(C(=C1C1=C(C=CC=C1F)Cl)NC(C)C)N=CN2 | C15H15ClFN5O
